US03946009
2-Amino-3,5-dibromopyrazine is reacted with morpholine at 130° C. under pressure yielding 2-amino-3-morpholino-5-bromopyrazine.

reactant | 2-Amino-3,5-dibromopyrazine | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-amino-3-morpholino-5-bromopyrazine | NC1=NC=C(N=C1N1CCOCC1)Br | C8H11BrN4O
